US05854237
10,11-Dihydro-10(4-nitrobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a solution of 3.3 g of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 50 ml of methylene chloride under argon is added 5.0 ml of triethylamine followed by ice bath cooling. A solution of 4.0 g of 4-nitrobenzoyl chloride in 20 ml of methylene chloride is added dropwise. Following complete addition, the ice bath is removed and the reaction mixture stirred at room temperature for 2 hours. The volatiles are removed in vacuo to give a residue which is dissolved in ethyl acetate. The solution is washed with water, 1N HCl, NaHCO3, brine, dried with Na2SO4 and filtered. The filtrate is concentrated in vacuo to a solid which is dissolved in methylene chloride, passed through silica gel and the pad washed with ethyl acetate. The combined filtrate is concentrated in vacuo to give 5.3 g of the desired product as a yellow solid, m.p. 188°-190° C.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 3.3 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 4.0 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 10,11-Dihydro-10(4-nitrobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 5.3 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H15N3O3
